US08084649B2
Hydrobromic acid (48% wt. in water, 240 ml) is added dropwise to a suspension of 4-ethyl-3-nitroaniline (20 g, 0.12 mol) in water (80 ml), and the mixture stirred until the solid is dissolved. The mixture is cooled to −5° C. and a solution of sodium nitrite (19.8 g, 0.28 mol) in water (100 ml) is added dropwise, maintaining the temperature at 0-5° C. Once the addition is complete, the cooling bath is removed and the reaction mixture is stirred for one hour at room temperature. The mixture is added dropwise to a pre-cooled solution of cuprous bromide (22.4 g, 0.16 mol) in hydrobromic acid (48% wt. in water) at 0° C. The reaction mixture is stirred and allowed to warm to room temperature over three hours. The mixture is extracted with diethyl ether, and the organic extracts are combined, dried over anhydrous sodium sulfate, filtered and the filtrate concentrated in vacuo. The residue is further purified by column chromatography on silica gel, eluting with hexane to give 4-bromo-1-ethyl-2-nitrobenzene (18 g)

reactant | 4-ethyl-3-nitroaniline | 0.12 mol, 20 g | C(C)C1=C(C=C(N)C=C1)[N+](=O)[O-] | C8H10N2O2
reactant | sodium nitrite | 0.28 mol, 19.8 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | Br | BrH
reactant | Hydrobromic acid | 240 ml | Br | BrH
solvent | water | 80 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 4-bromo-1-ethyl-2-nitrobenzene | 18 g | BrC1=CC(=C(C=C1)CC)[N+](=O)[O-] | C8H8BrNO2
